US07015218B1
5-Amino-2-(4-tert-butyldimethylsilyloxypiperidino)benzonitrile
5-Amino-2-(4-hydroxypiperidino)benzonitrile (4.0 g), tert-butyldiethylsilyl chloride (3.0 g) and imidazole (1.6 g) were stirred in dimethylformamide (20 ml) at room temperature for 1 h. The reaction mixture was treated with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was recrystallized from n-hexane to give the title compound (4.2 g), melting point: 88–90° C.

reactant | 5-Amino-2-(4-hydroxypiperidino)benzonitrile | 4.0 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)O | C12H15N3O
reactant | tert-butyldiethylsilyl chloride | 3.0 g | C(C)(C)(C)[Si](CC)(CC)Cl | C8H19ClSi
reactant | imidazole | 1.6 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-Amino-2-(4-tert-butyldimethylsilyloxypiperidino)benzonitrile | 4.2 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C18H29N3OSi
